US05830386
Under nitrogen atmosphere, 2.4 ml of dry methanol was placed in a two-necked round-bottomed flask. To the methanol, 90 mg (3.93 mM) of metal sodium was added and dissolved therein. To the solution, 519 mg (1.57 mM) of (S)-4-(2-fluorodecyloxy)benzamidine hydrochloride was added and stirred for 20 minutes. To the mixture, a solution of 400 mg (1.31 mM) of (S)-2-(3-fluorononyl)malonic diethyl ester in 1 ml of dry methanol was added, followed by stirring for 16 hours at room temperature and distilling-off of methanol under reduced pressure. To the resultant reaction mixture, 4 ml of 6M-HCl was added to precipitate a crystal. The crystal was recovered by filtration and washed with ethanol and Et2O and further dried under reduced pressure. The resultant crystal was recrystallized from DMF to obtain 390 mg (0.77 mM) of 4,6-dihydroxy-5-((3S)-3-fluorononyl)-2-[4-((2S)-2-fluorodecyloxy)phenyl]pyrimidine (Yield: 58.8%).

reactant | sodium | [Na] | Na
reactant | (S)-4-(2-fluorodecyloxy)benzamidine hydrochloride | 1.57 mM, 519 mg | Cl.F[C@H](COC1=CC=C(C(=N)N)C=C1)CCCCCCCC
reactant | (S)-2-(3-fluorononyl)malonic diethyl ester | 1.31 mM, 400 mg | C(C)OC(C(C(=O)OCC)CC[C@H](CCCCCC)F)=O | C16H29FO4
reactant | HCl | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 2.4 ml | CO | CH4O
product | 4,6-dihydroxy-5-((3S)-3-fluorononyl)-2-[4-((2S)-2-fluorodecyloxy)phenyl]pyrimidine | 0.77 mM, 390 mg, Yield: 58.8% | OC1=NC(=NC(=C1CC[C@H](CCCCCC)F)O)C1=CC=C(C=C1)OC[C@H](CCCCCCCC)F | C29H44F2N2O3
